US04897490
5,5-Bis(2,4-dimethylphenyl)-4-(1-methyl-1H-tetrazol-5-yl)-2,4-pentadienal
A solution of 3,3-bis(2,4-dimethylphenyl)-2-(1-methyl-1H-tetrazol-5-yl)-2-propenal (4.5 g, 13.0 mmoles) and triphenylphosphoranylidene acetaldehyde (4.1 g, 13.0 mmoles) in benzene was heated at reflux temperature for 6 hours. The reaction mixture was evaporated under reduced pressure and the residue was purified by column chromatography on silica gel eluting with 10% (v/v) ethyl acetate in hexane to give 5.9 g of the title compound as an oil. MS (CI): m/e=373 for (M+H)+ ;

reactant | 3,3-bis(2,4-dimethylphenyl)-2-(1-methyl-1H-tetrazol-5-yl)-2-propenal | 13.0 mmoles, 4.5 g | CC1=C(C=CC(=C1)C)C(=C(C=O)C1=NN=NN1C)C1=C(C=C(C=C1)C)C | C21H22N4O
reactant | triphenylphosphoranylidene acetaldehyde | 13.0 mmoles, 4.1 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=CC=O | C20H17OP
reactant | benzene | C1=CC=CC=C1 | C6H6
product | 5,5-Bis(2,4-dimethylphenyl)-4-(1-methyl-1H-tetrazol-5-yl)-2,4-pentadienal | 5.9 g | CC1=C(C=CC(=C1)C)C(=C(C=CC=O)C1=NN=NN1C)C1=C(C=C(C=C1)C)C | C23H24N4O
